US08314147B2
Intermediate 4: Ethyl (3-chloro-4-{[(2-chloro-5-{[(3-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}phenyl)acetate
A solution of 2-chloro-5-{[(3-chlorophenyl)methyl]oxy}benzoic acid (230 mg, 0.77 mmol) in dichloromethane (3 ml) was treated with N-[2-(dimethylamino)ethyl]-N′-ethylcarbodiimide hydrochloride (178 mg, 0.93 mmol, 1.2 eq) and stirred at room temperature for 30 minutes. A solution of ethyl (4-amino-3-chlorophenyl)acetate (198 mg, 0.93 mmol, 1.2 eq) in dichloromethane (2 ml) was added and the resulting mixture heated at 40° C. overnight. As some starting material was still present, another 100 mg of N-[2-(dimethylamino)ethyl]-N′-ethylcarbodiimide hydrochloride were added and the mixture heated at 40° C. for another 2 hours. On cooling, the mixture was diluted with dichloromethane (50 ml) and water (30 ml), the layers separated and the aqueous layer extracted again into dichloromethane (50 ml). Organic layers combined, washed with brine, dried over magnesium sulphate and evaporated to afford the title compound as a yellow oil. The aqueous layer containing an insoluble solid was evaporated in vacuo, the residue purified by SCX cartridge eluting with methanol to afford a further crop of the title compound as a yellow oil (72 mg total). MS (ES+) m/z 492 [M+H]+ (C24H2035Cl3NO4). 1H-NMR (400 MHz, d6-DMSO) δ 1.20 (3H, t, J 7.2), 3.72 (2H, s), 4.10 (2H, q, J 7.2), 5.20 (2H, s), 7.15-7.62 (10H, m).

reactant | 2-chloro-5-{[(3-chlorophenyl)methyl]oxy}benzoic acid | 0.77 mmol, 230 mg | ClC1=C(C(=O)O)C=C(C=C1)OCC1=CC(=CC=C1)Cl | C14H10Cl2O3
reactant | N-[2-(dimethylamino)ethyl]-N′-ethylcarbodiimide hydrochloride | 0.93 mmol, 178 mg, 1.2 eq | Cl.CN(CCN=C=NCC)C
reactant | ethyl (4-amino-3-chlorophenyl)acetate | 0.93 mmol, 198 mg, 1.2 eq | NC1=C(C=C(C=C1)CC(=O)OCC)Cl | C10H12ClNO2
reactant | N-[2-(dimethylamino)ethyl]-N′-ethylcarbodiimide hydrochloride | 100 mg | Cl.CN(CCN=C=NCC)C
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | Ethyl (3-chloro-4-{[(2-chloro-5-{[(3-chlorophenyl)methyl]oxy}phenyl)carbonyl]amino}phenyl)acetate | ClC=1C=C(C=CC1NC(=O)C1=C(C=CC(=C1)OCC1=CC(=CC=C1)Cl)Cl)CC(=O)OCC | C24H20Cl3NO4
